US07696213B2
2-Amino-4-methyl-6-(1H-pyrazol-4-yl)-8-(pyrrolidin-1-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 193)
To a flask was added a 2-amino-6-bromo-4-methyl-8-(pyrrolidin-1-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (21.0 mg, 0.06 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (20.9 mg, 0.07 mmol) potassium carbonate (25.6 mg, 0.19 mmol) in DMAC (1.20 ml):H2O (0.1 ml). The reaction mixture was degassed by alternating between N2 and vacuum. To the reaction mixture was added PdCl2(PPh3)2 (4.3 mg). After heating in microwave for 60 min at 100° C., the reaction mixture was concentrated under reduced pressure and the resulting residue was purified by reversed phase column eluted with acetonitrile: 0.1% acetic acid in water to give the titled compound weighted 2.5 mg

reactant | 2-amino-6-bromo-4-methyl-8-(pyrrolidin-1-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.06 mmol, 21.0 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)N2CCCC2)C | C12H14BrN5O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.07 mmol, 20.9 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | H2O | 0.1 ml | O | H2O
solvent | DMAC | 1.20 ml | CC(=O)N(C)C | C4H9NO
product | 2-Amino-4-methyl-6-(1H-pyrazol-4-yl)-8-(pyrrolidin-1-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NNC2)=O)N2CCCC2)C | C15H17N7O
